US04892885
[[2-[(Dimethylamino)methyl]phenyl]diphenylphosphoranylidene]carbamic acid, methyl ester
A 2.0 g portion of 2-(diphenylphosphino)-N,N-dimethylbenzenemethanamine was reacted with 4.0 ml of 1M methyl carbonazidate in ether as described in Example 1, giving 1.32 g of the desired product, mp 95°-97° C.

reactant | 2-(diphenylphosphino)-N,N-dimethylbenzenemethanamine | C1(=CC=CC=C1)P(C1=C(C=CC=C1)CN(C)C)C1=CC=CC=C1 | C21H22NP
reactant | methyl carbonazidate | 1M, 4.0 ml | C(OC)(=O)N=[N+]=[N-] | C2H3N3O2
solvent | ether | CCOCC | C4H10O
product | [[2-[(Dimethylamino)methyl]phenyl]diphenylphosphoranylidene]carbamic acid, methyl ester | 1.32 g | CN(C)CC1=C(C=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(OC)=O | C23H25N2O2P
